US07495103B2
A mixture of [2-(6-nitro-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester (5 g, 16.4 mmol) and Raney Ni (1 g) in EtOH (100 mL) was stirred at room temperature under H2 (1 atm) for 5 h. Raney Ni was filtered off and the filtrate was evaporated under reduced pressure. The crude product was purified by column chromatography to give [2-(6-amino-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester (B-10) (3 g, 67%). 1H NMR (DMSO-d6) δ 10.1 (br s, 1H), 7.11 (d, J=8.4 Hz, 1H), 6.77-6.73 (m, 2H), 6.46 (d, J=1.5 Hz, 1H), 6.32 (dd, J=8.4, 2.1 Hz, 1H), 4.62 (s, 2H), 3.14-3.08 (m, 2H), 2.67-2.62 (m, 2H), 1.35 (s, 9H); ESI-MS 275.8 m/z (MH+).

reactant | [2-(6-nitro-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 16.4 mmol, 5 g | C(C)(C)(C)OC(NCCC1=CNC2=CC(=CC=C12)[N+](=O)[O-])=O | C15H19N3O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Ni | 1 g | [Ni] | Ni
product | [2-(6-amino-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 3 g, 67% | C(C)(C)(C)OC(NCCC1=CNC2=CC(=CC=C12)N)=O | C15H21N3O2
